US06624119B1
3-[4-Chloro-6-fluoro-2-hydroxy-3-nitrophenyl]-1-methyl-6-trifluoromethyl-2,4-(1H,3H)-pyrimidinedione
30 g of 3-[4-chloro-2,6-difluoro-3-nitrophenyl]-1-methyl-6-trifluoromethyl-2,4-(1H,3H)-pyrimidinedione were dissolved in 100 ml of absolute dimethylformamide, admixed with 25.2 g of sodium acetate and heated at 100° C. for four hours. After cooling, the solvent was removed under reduced pressure and the residue was admixed with water; by addition of dilute hydrochloric acid, the pH was taken into the acidic range, and the mixture was extracted with methyl tert-butyl ether (three times 75 ml). The product of value was obtained as a mixture with the isomer formed by exchange of the fluorine atom which is in the position para to the nitro group. Total yield: 28.3 g. The crude product was purified at the subsequent stage (intermediate 7).

reactant | 3-[4-chloro-2,6-difluoro-3-nitrophenyl]-1-methyl-6-trifluoromethyl-2,4-(1H,3H)-pyrimidinedione | 30 g | ClC1=C(C(=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F)[N+](=O)[O-] | C12H5ClF5N3O4
reactant | sodium acetate | 25.2 g | C(C)(=O)[O-].[Na+]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 3-[4-Chloro-6-fluoro-2-hydroxy-3-nitrophenyl]-1-methyl-6-trifluoromethyl-2,4-(1H,3H)-pyrimidinedione | ClC1=C(C(=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)O)[N+](=O)[O-] | C12H6ClF4N3O5
